US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxy-1-methylethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide
Triethylamine (0.034 mL, 0.244 mmol) was added to N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 78) (40 mg, 0.081 mmol) in dichloromethane (1 mL). 2-Chloro-1,1-dimethyl-2-oxoethyl acetate (0.013 mL, 0.090 mmol) was added and the reaction mixture was stirred at room temp for 2 h. The reaction mixture was concentrated on the blowdown, potassium carbonate (113 mg, 0.815 mmol) and methanol (2 mL) was added and the reaction was stirred at room temp for 1 h. LCMS showed the acetate group was removed. The reaction mixture was concentrated, acidified with 2N HCl and extracted with EtOAc (2×15 mL). The combined organic layers were dried by passing through a hydrophobic frit and concentrated to afford the crude product as a yellow oil. The residue was dissolved in DMSO (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was removed under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound (11.5 mg, 24%). LCMS (System A) RT=1.05 min, ES+ve m/z 577/579 (M+H)+.

reactant | Triethylamine | 0.244 mmol, 0.034 mL | C(C)N(CC)CC | C6H15N
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C22H23ClN4O3S2
reactant | 2-Chloro-1,1-dimethyl-2-oxoethyl acetate | 0.090 mmol, 0.013 mL | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
reactant | potassium carbonate | 0.815 mmol, 113 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 1 mL | ClCCl | CH2Cl2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | methanol | 2 mL | CO | CH4O
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxy-1-methylethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide | 11.5 mg, 24% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)C(C)(C)O)CC=1C=C(C=CC1)CNC(C(C)(C)O)=O | C26H29ClN4O5S2
